US08431695B2
Step 2: Preparation of 2-benzyl-5-bromo-1H-benzimidazole
Concentrated hydrochloric acid (12 drops) was added to a solution of N-(2-amino-5-bromophenyl)-2-phenylacetamide (4.10 g, 13.44 mmol) in methanol (80 mL) and the mixture was stirred at room temperature for 2.5 days. The reaction mixture was concentrated and taken up in DCM. Solid sodium bicarbonate was added in portions to the suspension and the mixture stirred for 30 min. and water (20 mL) was added. The organic layer was isolated and dried over Na2SO4. The product (3.2 g, 82%) was Isolated by purified by column chromatography (50% hexanes in ethyl acetate). LC-MS [M+H]+=288.5, RT=2.11 min

reactant | N-(2-amino-5-bromophenyl)-2-phenylacetamide | 13.44 mmol, 4.10 g | NC1=C(C=C(C=C1)Br)NC(CC1=CC=CC=C1)=O | C14H13BrN2O
catalyst | hydrochloric acid | 12 drops | Cl | ClH
solvent | methanol | 80 mL | CO | CH4O
product | 2-benzyl-5-bromo-1H-benzimidazole | 3.2 g, 82% | C(C1=CC=CC=C1)C1=NC2=C(N1)C=CC(=C2)Br | C14H11BrN2
